US05322638
A mixture of 33.3 g of 4-(1E-pentenyl)cyclohexanone (prepared in accordance with EP-A-168683), 42 ml of ethyl cyanoacetate, 300 ml of toluene and 2.9 g of piperidinium acetate is boiled for 1.5 hours on a water separator. After cooling the reaction mixture is washed with three 50 ml portions of water, dried over sodium sulphate and concentrated. Chromatographic purification of the residue on 750 g of silica gel with hexane/ethyl acetate (vol. 19:1) gives ethyl cyano-[4-(1E-pentenyl)cyclohexylidene]-acetate.

reactant | 4-(1E-pentenyl)cyclohexanone | 33.3 g | C(=C\CCC)/C1CCC(CC1)=O | C11H18O
reactant | ethyl cyanoacetate | 42 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | piperidinium acetate | 2.9 g | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | water | O | H2O
product | ethyl cyano-[4-(1E-pentenyl)cyclohexylidene]-acetate | C(#N)C(C(=O)OCC)=C1CCC(CC1)\C=C\CCC | C16H23NO2
